US07504403B2
[1-(4-{2-[4-(4-Oxo-8-phenyl-3,4-dihydro -2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin -2-ylamino]ethyl}-phenyl)-ethyl]-carbamic acid tert-butyl ester:
The mixture of 1-(2-methanesulfonyl-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one (0.20 g, 053 mmol) and {1-[4-(2-amino -ethyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (0.304 g, 0.79 mmol) in 1:1 dioxane: 1-methyl -2-pyrrolidinone (6 mL) was heated to 100° C. for 17 h. The mixture was partitioned between water (10 mL) and ethyl acetate (20 mL). The organic phase was separated, washed with water, saturated sodium bicarbonate, brine, dried over magnesium sulfate and chromatographed on silica gel using 0-4% MeOH/CH2Cl2to afford a white solid. M+1=568.

reactant | 1-(2-methanesulfonyl-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one | 0.20 g | CS(=O)(=O)C1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C18H17N5O3S
reactant | {1-[4-(2-amino -ethyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 0.79 mmol, 0.304 g | C(C)(C)(C)OC(NC(C)C1=CC=C(C=C1)CCN)=O | C15H24N2O2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | 1-methyl -2-pyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
product | [1-(4-{2-[4-(4-Oxo-8-phenyl-3,4-dihydro -2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin -2-ylamino]ethyl}-phenyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)C1=CC=C(C=C1)CCNC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2)=O | C32H37N7O3
